US03979390
A mixture of 4-chloro-1-(2,4-difluorophenyl)-1,1-ethylenedioxybutane (5.3 g), 4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decane (4.6 g), anhydrous potassium carbonate (0.1 g) and dimethylformamide (58 ml) was heated under refluxing for 2.5 hours. After cooling, the reaction mixture was poured into cold water (400 ml) with vigorous stirring, and the precipitate was collected and washed with water to yield 4-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decan-8-yl)-1-(2,4-difluorophenyl)-1,1-ethylenedioxybutane. M.P. 58° - 62°C.

reactant | 4-chloro-1-(2,4-difluorophenyl)-1,1-ethylenedioxybutane | 5.3 g | ClCCCC1(OCCO1)C1=C(C=C(C=C1)F)F | C12H13ClF2O2
reactant | 4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decane | 4.6 g | O=C1NCN(C12CCNCC2)C2=CC=CC=C2 | C13H17N3O
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 58 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 4-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decan-8-yl)-1-(2,4-difluorophenyl)-1,1-ethylenedioxybutane | O=C1NCN(C12CCN(CC2)CCCC2(OCCO2)C2=C(C=C(C=C2)F)F)C2=CC=CC=C2 | C25H29F2N3O3
